US09399640B2
Step 6. 6-Bromo-5-phenoxy-2H-1,4-benzoxazin-3(4H)-one
A solution of 2-amino-4-bromo-3-phenoxyphenol (0.060 g, 0.214 mmol) in acetonitrile (3.88 mL) and water (1.21 mL) was treated with potassium carbonate (0.118 g, 0.857 mmol), followed by the addition of bromoacetyl bromide (0.0279 mL, 0.321 mmol), and the resultant reaction mixture was stirred at RT for 30 min, after which time additional bromoacetyl bromide (0.0186 mL, 0.214 mmol) was added dropwise and the reaction mixture was stirred at RT for 1 h, then warmed to 75° C. and stirred at that temperature for 30 min. The reaction mixture was concentrated and diluted with ethyl acetate and water. Layers were separated and the organic layer was washed with brine, dried with sodium sulfate, filtered, and concentrated in vacuo the yield a crude product. Purification by flash column chromatography (100% hexanes to 50% EtOAc/hexanes) gave the desired product (59.5 mg, 87%) as a white solid. LCMS calculated for C14H11BrNO3 (M+H)+: m/z=320.0, 322.0. found: 319.9, 321.9.

reactant | 2-amino-4-bromo-3-phenoxyphenol | 0.214 mmol, 0.060 g | NC1=C(C=CC(=C1OC1=CC=CC=C1)Br)O | C12H10BrNO2
reactant | potassium carbonate | 0.857 mmol, 0.118 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetyl bromide | 0.321 mmol, 0.0279 mL | BrCC(=O)Br | C2H2Br2O
reactant | bromoacetyl bromide | 0.214 mmol, 0.0186 mL | BrCC(=O)Br | C2H2Br2O
solvent | acetonitrile | 3.88 mL | C(C)#N | C2H3N
solvent | water | 1.21 mL | O | H2O
product | 6-Bromo-5-phenoxy-2H-1,4-benzoxazin-3(4H)-one | 59.5 mg, 87% | BrC=1C=CC2=C(NC(CO2)=O)C1OC1=CC=CC=C1 | C14H10BrNO3
